US03971803
40.5 g of 5-phenyl-1,3,4-oxadiazol-2-one (0.25 mol), 51.5 g of 2,6-di-tert.-butyl-phenol (0.25 mol), 8.2 g of paraformaldehyde (0.27 mol) and 0.7 g of hexamethylenetetramine in 150 ml of dimethylformamide and 15 ml of water are heated to 110°C for 15 hours, whilst stirring. A yellowish solution results, from which the 3-(3,5-di-tert.-butyl-4-hydroxybenzyl)-5-phenyl-1,3,4-oxadiazol-2-one (stabiliser No. 1) which is formed crystallises out on cooling to room temperature. The product is filtered off, washed with a little methanol and dried in vacuo at 70°C. Melting point: 164°C.

reactant | 5-phenyl-1,3,4-oxadiazol-2-one | 0.25 mol, 40.5 g | C1(=CC=CC=C1)C1=NNC(O1)=O | C8H6N2O2
reactant | 2,6-di-tert.-butyl-phenol | 0.25 mol, 51.5 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | paraformaldehyde | 0.27 mol, 8.2 g | C=O | CH2O
reactant | hexamethylenetetramine | 0.7 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 3-(3,5-di-tert.-butyl-4-hydroxybenzyl)-5-phenyl-1,3,4-oxadiazol-2-one | C(C)(C)(C)C=1C=C(CN2C(OC(=N2)C2=CC=CC=C2)=O)C=C(C1O)C(C)(C)C | C23H28N2O3
